US07176242B2
2-Butyl-1,2,3,4-tetrahydroisoquinoline-7-carbonitrile
To an ice-cold, stirred solution of 1,2,3,4-tetrahydroisoquinoline-7-carbonitrile (J. Med. Chem. 1997, 40, 3997) (485 mg, 3.1 mmol) and triethylamine (0.47 mL, 3.4 mmol) in methylene chloride (5 mL) is added DMAP (37 mg, 0.3 mmol) and bromobutane (0.5 mL, 4.6 mmol). The reaction mixture is stirred for 20 h, diluted with methylene chloride, washed with water, and brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 50% ethyl acetate/hexanes) affords the title compound. ESI MS m/z 215 [M+H]+.

reactant | 1,2,3,4-tetrahydroisoquinoline-7-carbonitrile | 3.1 mmol, 485 mg | C1NCCC2=CC=C(C=C12)C#N | C10H10N2
reactant | triethylamine | 3.4 mmol, 0.47 mL | C(C)N(CC)CC | C6H15N
reactant | bromobutane | 4.6 mmol, 0.5 mL | BrCCCC | C4H9Br
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.3 mmol, 37 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-Butyl-1,2,3,4-tetrahydroisoquinoline-7-carbonitrile | C(CCC)N1CC2=CC(=CC=C2CC1)C#N | C14H18N2
